US03941793
A well-stirred mixture of 5 parts of ethyl 3-n-propyl-4-hydroxyquinoline-2-carboxylate, 3 parts of anhydrous potassium carbonate and 3.3 parts of benzyl bromide in anhydrous acetone was boiled under reflux for 16 hours, filtered to remove inorganic salts, and evaporated to remove solvent. A solution of the residual oil in 75 parts of ether, after being washed with N.sodium hydroxide (2 portions each comprising 25 parts) and then water (4 portions each of 40 parts) was dried over magnesium sulphate and evaporated to yield 6.4 parts of crude ethyl 3-n-propyl-4-benzyloxyquinoline-2-carboxylate as a very pale yellow oil.

reactant | ethyl 3-n-propyl-4-hydroxyquinoline-2-carboxylate | C(CC)C=1C(=NC2=CC=CC=C2C1O)C(=O)OCC | C15H17NO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | CC(=O)C | C3H6O
product | ethyl 3-n-propyl-4-benzyloxyquinoline-2-carboxylate | C(CC)C=1C(=NC2=CC=CC=C2C1OCC1=CC=CC=C1)C(=O)OCC | C22H23NO3
